US08124606B2
Compound 83B: Methyl 4-benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate:
Methyl 6-(benzyl(2-ethoxy-2-oxoethyl)amino)-5-nitronicotinate (445 mg g, 1.19 mmol) was dissolved in dichloromethane (5 mL). To the yellow solution was added ammonium metavanadate (10.0 mg, 0.085 mmol), triphenyl phosphite (aprox 10 ul, 0.032 mmol), and Pt/C (50 mg, 5% w/w). The reaction mixture was pressurized with hydrogen gas (75 psi) and stirred at room temperature for 48 h. The reaction was then depressurized and diluted with dichloromethane (20 mL) which was then refluxed for 30 min. The hot solution was filtered through a pad of celite and washed with hot dichloromethane (3×10 mL). The filtrate was concentrated to yield the title compound (250 mg, 71%) as a white solid. [M+H] calc'd for C16H15N3O3, 298. found, 298.

reactant | Methyl 6-(benzyl(2-ethoxy-2-oxoethyl)amino)-5-nitronicotinate | 1.19 mmol, 445 mg | C(C1=CC=CC=C1)N(C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])CC(=O)OCC | C18H19N3O6
reactant | triphenyl phosphite | 0.032 mmol, 10 ul | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | ammonium metavanadate | 0.085 mmol, 10.0 mg | [NH4+].[O-][V](=O)=O
catalyst | Pt/C | 50 mg | [Pt] | Pt
product | Methyl 4-benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine-7-carboxylate | 250 mg, 71% | C(C1=CC=CC=C1)N1C2=C(NC(C1)=O)C=C(C=N2)C(=O)OC | C16H15N3O3
